US04757081
For example, when 2-(4-methoxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone is either dissolved or suspended in a suitable solvent, e.g., methylene chloride, benzene or chloroform, and a Lewis acid such as boron tribromide, boron trichloride or the like is then added to the resulting solution to conduct a reaction, 2-(4-hydroxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone is produced.

reactant | 2-(4-methoxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone | COC1=CC=C(C=C1)C=1N(C(=CC(C1C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(4-hydroxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone | OC1=CC=C(C=C1)C=1N(C(=CC(C1C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19NO2
